US07935815B2
Synthesis of ethyl (2-difluoromethoxyphenyl)acetate
(2-Difluoromethoxyphenyl)acetonitrile (1.45 g) was added dropwise to a solution of chlorotrimethylsilane (2.23 mL) in ethanol (2.0 mL), and the reaction solution was stirred at 50° C. for five hours. The reaction solution was left to cool to room temperature. Then, potassium carbonate, water and ethyl acetate were added and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 620 mg of the title compound. The property values of the compound are as follows.

reactant | (2-Difluoromethoxyphenyl)acetonitrile | 1.45 g | FC(OC1=C(C=CC=C1)CC#N)F | C9H7F2NO
reactant | chlorotrimethylsilane | 2.23 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (2-difluoromethoxyphenyl)acetate | 620 mg | FC(OC1=C(C=CC=C1)CC(=O)OCC)F | C11H12F2O3
